US08809369B2
A mixture of 2-{5-[4-(2,4-dimethyl-phenyl)-piperazin-1-yl]-pyridin-3-yl}-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester (0.30 g, 0.60 mmol) in methanol (3 mL) and tetrahydrofuran (10 mL), 30% sodium hydroxide in water (1 mL). The reaction mixture was stirred at 60° C. for 12 h. The mixture was neutralized with a 3 N aqueous hydrochloric acid solution and extracted with ethyl acetate (2×50 mL), washed with water, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 2-{5-[4-(2,4-dimethyl-phenyl)-piperazin-1-yl]-pyridin-3-yl}-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid (0.25 g, 90%) as a white solid which was used for next step without further purification: MS (ESI) M+1=471.3.

reactant | 2-{5-[4-(2,4-dimethyl-phenyl)-piperazin-1-yl]-pyridin-3-yl}-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester | 0.60 mmol, 0.30 g | C(C)OC(=O)C=1C=C2C(CC(NC2=CC1)C=1C=NC=C(C1)N1CCN(CC1)C1=C(C=C(C=C1)C)C)(C)C | C31H38N4O2
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | [OH-].[Na+]
solvent | water | 1 mL | O | H2O
product | 2-{5-[4-(2,4-dimethyl-phenyl)-piperazin-1-yl]-pyridin-3-yl}-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid | 0.25 g, 90% | CC1=C(C=CC(=C1)C)N1CCN(CC1)C=1C=C(C=NC1)C1NC2=CC=C(C=C2C(C1)(C)C)C(=O)O | C29H34N4O2
